US07524840B2
5-(2-chlorophenyl)-7-cyano-1,2-dihydro-8-(2-((2-methoxyethyl)methylamino)-ethoxy)-3-methyl-pyrazolo[3,4-b][1,4]benzodiazepine (IVv) was prepared by reacting 0.0005 moles of 5-(2-chlorophenyl)-7-cyano-1,3-dihydro-8-(2-((2-methoxyethyl)methylamino)-ethoxy)-2H-1,4-benzodiazepin-2-thione (IIv) with 1,1-dimethoxy-N,N-dimethyl-ethanamine and then hydrazine in a manner analogous to Example 55. MH+/Z=465.

reactant | 5-(2-chlorophenyl)-7-cyano-1,3-dihydro-8-(2-((2-methoxyethyl)methylamino)-ethoxy)-2H-1,4-benzodiazepin-2-thione | 0.0005 moles | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)OCCN(C)CCOC)C#N)=S | C22H23ClN4O2S
reactant | 1,1-dimethoxy-N,N-dimethyl-ethanamine | COC(C)(N(C)C)OC | C6H15NO2
reactant | hydrazine | NN | H4N2
product | 5-(2-chlorophenyl)-7-cyano-1,2-dihydro-8-(2-((2-methoxyethyl)methylamino)-ethoxy)-3-methyl-pyrazolo[3,4-b][1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NC=2C(=NC3=C1C=C(C(=C3)OCCN(C)CCOC)C#N)NNC2C | C24H25ClN6O2
